US09334366B2
3.2—Preparation of 4,4′-Dinitro-1,1′-biphenyl-2,2′-dimethanol
80 g (241 mmol) 4,4′-Dinitro-1,1′-biphenyl-2,2′-dicarboxylic acid are dissolved in 225 ml THF and added dropwise in the course of 1 hour to 1.4 L (1440 mmol) of a borane-tetrahydrofuran complex 1.0 M solution in THF. After 19 hours at 25° C., 500 ml of water are carefully added. After 1 hour, the solution is acidified to pH=1-2 with 30 ml of 1N HCl solution and allowed to stirred for 30 min. The reaction mixture is then partitioned between ethyl acetate and water. The organic phase is washed repeatedly with water, dried over sodium sulfate, filtered and concentrated by rotary evaporation. The residue, 48 g (66%) of 2,2′-bis(hydroxymethyl)-4,4′-dinitro-1,1′-biphenyl as white powder is used without further purification.

reactant | 4,4′-Dinitro-1,1′-biphenyl-2,2′-dicarboxylic acid | 241 mmol, 80 g | [N+](=O)([O-])C=1C=C(C(=CC1)C=1C(=CC(=CC1)[N+](=O)[O-])C(=O)O)C(=O)O | C14H8N2O8
reactant | water | 500 ml | O | H2O
reactant | HCl | 1N, 30 ml | Cl | ClH
solvent | THF | 225 ml | C1CCOC1 | C4H8O
product | 4,4′-Dinitro-1,1′-biphenyl-2,2′-dimethanol | [N+](=O)([O-])C=1C=C(C(=CC1)C=1C(=CC(=CC1)[N+](=O)[O-])CO)CO | C14H12N2O6
